US04066651
A solution of 1-(4-chlorobenzyl)-1,2-dihydro-4-methyl-2-oxoquinoline (18.0g.) in diethyl carbonate (80ml.) was added to a stirred suspension of sodium hydride (15.4g.; weighed as a 60% w/w dispersion in oil, but subsequently washed by decantation with light petroleum, b.p. 40°-60° C., to remove the oil) in diethyl carbonate (20ml.). The mixture was stirred unfer reflux for 11/2 hours, and formed a thick suspension. This was cooled and treated with a small amount of methanol to destroy any remaining sodium hydride. Dilution with ether (400 ml.) gave a suspension from which the solid was filtered. This was suspended in ethanol (180ml.) and brought to pH 3 by addition of hydrochloric acid. Water (600ml.) was added, and the suspension was stirred for 30 minutes before the solid was collected by filtration, washed with water, and well drained. This solid [which comprised diethyl 1-(4-chlorobenzyl)-1,2-dihydro-2-oxoquinol-4-ylmalonate] was dissolved in ethanol (180ml.), to which was added aqueous 40% w/v sodium hydroxide (20ml.), and the mixture was heated under reflux for 4 hours. The cooled mixture was added to water (600ml.) to give a solution which was brought to pH 3 by addition of concentrated hydrochloric acid. The resultant precipitate was collected by filtration, washed with water, drained, and crystallised from ethanol to give 1-(4-chlorobenzyl)-1,2-dihydro-2-oxoquinol-4-ylacetic acid, m.p. 208°-209° C, in 51% overall yield.

reactant | 1-(4-chlorobenzyl)-1,2-dihydro-4-methyl-2-oxoquinoline | 18.0g | ClC1=CC=C(CN2C(C=C(C3=CC=CC=C23)C)=O)C=C1 | C17H14ClNO
reactant | sodium hydride | [H-].[Na+]
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl carbonate | 80ml | C(OCC)(OCC)=O | C5H10O3
product | 1-(4-chlorobenzyl)-1,2-dihydro-2-oxoquinol-4-ylacetic acid | 15-65% yield | ClC1=CC=C(CN2C(C=C(C3=CC=CC=C23)CC(=O)O)=O)C=C1 | C18H14ClNO3
